US06479495B1
4-Benzyloxy-3-[(ethoxycarbonyl)methoxy]benzaldehyde
To a solution of 4-benzyloxy-3-hydroxybenzaldehyde(0.5 g) in acetone (12.5 ml) was added milled potassium carbonate (1.20 g) and ethyl bromoacetate (0.48 ml), with stirring. The reaction mixture was heated under reflux for ˜1 hr, with stirring, poured into ice/water and extracted with ethyl acetate. The extracts were washed with water, saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was dissolved in dichloromethane and flash chromatographed (silica gel), eluting with dichloromethane, followed by 1% methanol:dichloromethane). The appropriate fractions were collected and combined to give 0.63 g (98%) of product, mp 36-43° C.

reactant | 4-benzyloxy-3-hydroxybenzaldehyde | 0.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)O | C14H12O3
reactant | potassium carbonate | 1.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.48 ml | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 12.5 ml | CC(=O)C | C3H6O
product | 4-Benzyloxy-3-[(ethoxycarbonyl)methoxy]benzaldehyde | 0.63 g, 98% | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OCC(=O)OCC | C18H18O5
